### PR TITLE
feat(Algebra/Group/WithOne): add some API

### PR DESCRIPTION
**Pull request by kbuzzard**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

I am slightly worried by the fact that these don't exist already, so people might say "clearly we don't need them".

I think I need them for the following reason: I need to do some calculations in ℤₘ₀ := `WithZero (Multiplicative ℤ)`, and the way I'm doing them is "either it's 0 or it's coerced from `Multiplicative ℤ`; deal with each case separately" and the two lemmas here enable me to do all these case splits with `rcases` painlessly.

Example code (from a future PR proving an inequality with three variables x,a,b):
```
  ...
    rcases eq_coe_of_ne_zero hx.ne' with ⟨x, rfl⟩
    dsimp only
    rcases eq_zero_or_coe a with (rfl | ⟨a, rfl⟩)
    · rw [mul_zero]
      rcases eq_coe_of_ne_zero h.ne' with ⟨b, rfl⟩
      exact WithZero.zero_lt_coe _
  ...
```

### CODE REVIEW

File: Mathlib/Algebra/Group/WithOne/Defs.lean [hunk 1]
```diff
@@ -172,6 +172,14 @@ theorem ne_one_iff_exists {x : WithOne α} : x ≠ 1 ↔ ∃ a : α, ↑a = x :=
 #align with_one.ne_one_iff_exists WithOne.ne_one_iff_exists
 #align with_zero.ne_zero_iff_exists WithZero.ne_zero_iff_exists
 
+@[to_additive]
+theorem eq_coe_of_ne_one {x : WithOne α} (hx : x ≠ 1) : ∃ a : α, ↑a = x :=
+  ne_one_iff_exists.mp hx
+
+@[to_additive]
+theorem eq_one_or_coe {x : WithOne α} : x = 1 ∨ ∃ a : α, ↑a = x :=
+  or_iff_not_imp_left.mpr eq_coe_of_ne_one
```
Comment (eric-wieser) [inline Mathlib/Algebra/Group/WithOne/Defs.lean:181]: I think this should be handled with `induction x` instead; let me make  PR to make that just work...

Comment (eric-wieser) [reply Mathlib/Algebra/Group/WithOne/Defs.lean:181]: Ah, in fact #12605 already does this

Comment (kbuzzard) [reply Mathlib/Algebra/Group/WithOne/Defs.lean:181]: Oh my initial proof was a case split but I figured this was cleaner...

Comment (eric-wieser) [reply Mathlib/Algebra/Group/WithOne/Defs.lean:181]: #13096 is my more-minimal PR that does a small enough number to be a quick review.

Comment (eric-wieser) [reply Mathlib/Algebra/Group/WithOne/Defs.lean:181]: > Oh my initial proof was a case split but I figured this was cleaner...

What I mean is, the *caller* should be using `induction`, rather than using this lemma with `rcases`

Comment (kbuzzard) [reply Mathlib/Algebra/Group/WithOne/Defs.lean:181]: If I'm sitting there with `(hx : x ≠ 0)` and I want `n` such that `x = \u n` and I also want to replace `x` with `\u n` everywhere then surely `rcases eq_coe_of_ne_zero hx.ne' with ⟨n, rfl⟩` is hard to beat. You want me to do `induction` + two lines + `subst` instead??

Comment (eric-wieser) [reply Mathlib/Algebra/Group/WithOne/Defs.lean:181]: My comment only applies to `eq_one_or_coe` (which is the line I commented on), not `eq_coe_of_ne_zero`. The latter is a good lemma.

Comment (kbuzzard) [reply Mathlib/Algebra/Group/WithOne/Defs.lean:181]: I see -- thanks. I'll check tomorrow that induction works in my use case.

Comment (eric-wieser) [reply Mathlib/Algebra/Group/WithOne/Defs.lean:181]: Here's a totally magic proof:
```
instance {α : Type*} [Mul α] [Preorder α] [CovariantClass α α (· * ·) (· < ·)]:
    PosMulStrictMono (WithZero α) where
  elim := by
    intro ⟨x, hx⟩ a b (h : a < b)
    dsimp only
    let (x : α) := x
    match a, b with
    | 0, (b : α) =>
      rw [mul_zero]
      exact WithZero.zero_lt_coe _
    | (a : α), (b : α) =>
      norm_cast at h ⊢
      exact mul_lt_mul_left' (α := α) h x
```

Comment (eric-wieser) [reply Mathlib/Algebra/Group/WithOne/Defs.lean:181]: Or an ever shorter one:
```lean
instance {α : Type*} [Mul α] [Preorder α] [CovariantClass α α (· * ·) (· < ·)]:
    PosMulStrictMono (WithZero α) where
  elim := @fun
    | ⟨(x : α), hx⟩, 0, (b : α), _ => by
        rw [mul_zero]
        exact WithZero.zero_lt_coe _
    | ⟨(x : α), hx⟩, (a : α), (b : α), h => by
        dsimp only
        norm_cast at h ⊢
        exact mul_lt_mul_left' (α := α) h x
```

Comment (urkud) [reply Mathlib/Algebra/Group/WithOne/Defs.lean:181]: If you have `x ≠ 0` and you want to lift it to `α`, then you need a `CanLift` instance.

**Comment by kbuzzard** [comment]
OK so Eric's approach works in my use case so I'm happy to close this. Advice on whether to close or proceed with just the first lemma here, or to add `CanLift` instead?
